US07135475B2
A solution of 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide (70 mg, 0.09 mmol) in methanol (3.0 mL) heated to 50° C. was treated with a 10% aqueous sodium hydroxide solution (1.08 mL). The reaction was heated at 50° C. for 4 h. At this time, the reaction was treated with a 3N aqueous hydrochloric acid solution (0.9 mL). This solution was stirred at 25° C. for 30 min. The resulting solids were collected by filtration, washed with water, and dried in vacuo to afford 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide (41.3 mg, 60.5%) as a pale yellow solid: EI-HRMS m/e calcd for C45H39N8O3F (M+Na)+781.3027, found 781.3039.

reactant | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid (4-{[6-amino-1-butyl-3-(2-fluoro-benzyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl]-methyl}-phenyl)-amide | 0.09 mmol, 70 mg | NC1=C(C(N(C(N1CCCC)=O)CC1=C(C=CC=C1)F)=O)NC(=O)CC1=CC=C(C=C1)NC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C45H41FN8O4
reactant | sodium hydroxide | 1.08 mL | [OH-].[Na+]
reactant | hydrochloric acid | 3N, 0.9 mL | Cl | ClH
solvent | methanol | 3.0 mL | CO | CH4O
product | 1-trityl-1H-[1,2,4]triazole-3-carboxylic acid {4-[3-butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-amide | 41.3 mg, 60.5% | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(=O)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC1=C(C=CC=C1)F)=O | C45H39FN8O3
